US04344943
A solution of 1.10 g. of methyl 6-chloro-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate (5.5 mmol.) in dry xylene (25 ml.) containing 2.32 g of benzoyl chloride (16.5 mmol.) is heated at reflux temperature for 50 hours. The solvent is removed in vacuo, the residue is dissolved in dichloromethane (50 ml.), the solution is washed sequentially with saturated sodium chloride solution, 10% sodium bicarbonate solution, and saturated sodium chloride solution again. The organic phase is dried over sodium sulfate, evaporated in vacuo and the residue is subjected to column chromatography on silica gel (50:1) using hexane-ethyl acetate (9:1) as the eluting solvent. The solvent is removed and the product is crystallized from hexane to give methyl 5-benzoyl-6-chloro-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate, m.p. 106° C.

reactant | methyl 6-chloro-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate | 5.5 mmol | ClC=1C=C2N(CCC2C(=O)OC)C1 | C9H10ClNO2
reactant | benzoyl chloride | 16.5 mmol, 2.32 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | xylene | 25 ml | C=1(C(=CC=CC1)C)C | C8H10
product | methyl 5-benzoyl-6-chloro-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate | C(C1=CC=CC=C1)(=O)C1=C(C=C2N1CCC2C(=O)OC)Cl | C16H14ClNO3
